US04681883
2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]-3-chloropyridine
3-[3-(Piperidinomethyl)phenoxy]propylamine (2.17 g) and 2,3-dichloropyridine (1.27 g) were dissolved in 3-methylpyridine (6 ml) and stirred under reflux for 16 hours. The majority of the reaction solvent was removed by vacuum distillation (120 torr, 70°-80° C.) and the residue was neutralised with aqueous potassium carbonate (5%; 40 ml), washed with water (2×100 ml) and extracted into chloroform (40 ml). The chloroform extract was evaporated under reduced pressure and subjected to column chromatography (chloroform:methanol 25:1) to give the title compound as an oil (1.15 g). This was treated with oxalic acid as in Example 1 to give 2-[3-[3-(piperidinomethyl)phenoxy]propylamino]-3-chloropyridine dioxalate (1.1 g), m.p. 154°-155° C.

reactant | 3-[3-(Piperidinomethyl)phenoxy]propylamine | 2.17 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 2,3-dichloropyridine | 1.27 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
solvent | 3-methylpyridine | 6 ml | CC=1C=NC=CC1 | C6H7N
product | 2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]-3-chloropyridine | 1.15 g | N1(CCCCC1)CC=1C=C(OCCCNC2=NC=CC=C2Cl)C=CC1 | C20H26ClN3O
